US07244728B2
b) 1-chloro-4-(2-methyl-propenyl)-2-trifluoromethyl-benzene
1.50 g (5.9 mmol) 1-(4-chloro-3-trifluoromethyl-phenyl)-2-methyl-propan-1-ol and 0.50 g (2.6 mmol) p-toluenesulphonic acid monohydrate in 50 mL toluene are refluxed for 3 hours using the water separator. After working up analogously to Example 1b) a brown oil is obtained. Yield: 1.4 g; mass spectrometry: [M]+=234/6.

reactant | 1-(4-chloro-3-trifluoromethyl-phenyl)-2-methyl-propan-1-ol | 5.9 mmol, 1.50 g | ClC1=C(C=C(C=C1)C(C(C)C)O)C(F)(F)F | C11H12ClF3O
reactant | p-toluenesulphonic acid monohydrate | 2.6 mmol, 0.50 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 1-chloro-4-(2-methyl-propenyl)-2-trifluoromethyl-benzene | ClC1=C(C=C(C=C1)C=C(C)C)C(F)(F)F | C11H10ClF3
